US07465815B2
3-(4-Bromophenyl)-2-methyl-2-propen-1-ol
To a solution of sodium tert-butoxide (10.6 g, 110 mmol) in DMF (60 mL) was added triethyl phosphonoacetate (26.2 g, 110 mmol) under argon atmosphere at −10° C. and the mixture was stirred at the same temperature for 1 hour. 4-bromobenzaldehyde (18.5 g, 100 mmol) was added to the solution at 10° C. or lower, and the mixture was warmed to room temperature, and then stirred for 2 hours. Water was added to the reaction solution after ice-cooling, which was extracted with toluene. The extract was washed with a saturated brine, dried over sodium sulfate, and then concentrated under reduced pressure. The obtained oily matter was dissolved in toluene (200 mL), dihydrobis(2-methoxyethoxy) sodium aluminate (a 70% toluene solution, 41.5 g, 144 mmol) was added dropwise at −10° C., and then the mixture was stirred at the same temperature for 1 hour. A 10% aqueous potassium sodium tartrate solution was added to separate the organic layer. The organic layer was washed with a 10% aqueous potassium sodium tartrate solution and a saturated brine, dried over sodium sulfate, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 20.1 g (yield 88%) of the title compound as an oily matter.

reactant | sodium tert-butoxide | 110 mmol, 10.6 g | CC(C)([O-])C.[Na+]
reactant | 4-bromobenzaldehyde | 100 mmol, 18.5 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | Water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3-(4-Bromophenyl)-2-methyl-2-propen-1-ol | 20.1 g, yield 88% | BrC1=CC=C(C=C1)C=C(CO)C | C10H11BrO
